US07271283B2
An excess of 2-(phenylthio)ethanethiol is reacted with epichlorohydrin to form 1,3-bis(2-(phenylthio)ethylthio)propan-2-ol. In the final step, the 1,3-bis(2-(phenylthio)ethylthio)propan-2-ol is reacted with a acryloyl chloride in the presence of a tertiary alkyl amine and dimethylaminopyridine to form 1,3-bis(2-(phenylthio)ethylthio)propan-2-yl acrylate.

reactant | 2-(phenylthio)ethanethiol | C1(=CC=CC=C1)SCCS | C8H10S2
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
product | 1,3-bis(2-(phenylthio)ethylthio)propan-2-ol | C1(=CC=CC=C1)SCCSCC(CSCCSC1=CC=CC=C1)O | C19H24OS4
